US06403810B2
4.1 Preparation of 3-Hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahvdronaphth-2-aldehyde
A solution of 5.43 g of 3-bromo-2-hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene in 110 ml of THF was cooled to −78° C. with an acetone/dry ice bath and treated dropwise with 14.5 ml of butyllithium 1.6M in hexane (1.5 eq.). The mixture was kept at −78° C. for 1 hour. DMF (2.4 ml) was added at −78° C. The reaction mixture was stirred at −78° C. for 15 min. then was allowed to warm to room temperature for 2 hours. The mixture was quenched with water (100 ml) and the pH was adjusted to 2 with hydrochloric acid 25%. The mixture was extracted with 3 portions of 100 ml of ether. The combined organic extracts were washed with water (100 ml) and saturated aqueous sodium chloride solution (100 ml). The organic phase was dried over MgSO4, filtered and concentrated in vacuo, giving a yellow oil. The product was purified by flash chromatography (SiO2, hexane then 5% ethyl acetate/hexane) yielding 4.41 g of a pale yellow oil.

reactant | 3-bromo-2-hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 5.43 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)CCCCCC | C20H31Br
reactant | butyllithium | 1.6M, 14.5 ml | C(CCC)[Li]
reactant | hexane | 1.5 eq. | CCCCCC | C6H14
reactant | DMF | 2.4 ml | CN(C)C=O | C3H7NO
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | 3-Hexyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahvdronaphth-2-aldehyde | 4.41 g | C(CCCCC)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C21H32O
